US05478813
143.8 mg of 1,11-dibenzyloxy-12,13-dihydro-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7(6H)-dione was dissolved in 50 ml of DMF, 128.8 mg of 60% oily sodium hydride (NaH) was added, 36.5 μl of benzyloxymethyl chloride was gradually added under ice cooling over a period of 10 minutes, and the mixture was subjected to reaction at 0° C. for further 1 hour. The reaction solution was diluted with water and extracted with ethyl acetate, the ethyl acetate layer was dried over sodium sulfate and concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (Kiezel gel 60; eluted with chloroform) to give the desired 6-benzyloxymethyl-1,11-dibenzyloxy-12,13-dihydro-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7(6H)-dione (yield: 61.7%).

reactant | 1,11-dibenzyloxy-12,13-dihydro-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7(6H)-dione | 143.8 mg | C(C1=CC=CC=C1)OC1=CC=CC2=C1NC1=C2C2=C(C=3C4=CC=CC(=C4NC13)OCC1=CC=CC=C1)C(NC2=O)=O | C34H23N3O4
reactant | sodium hydride | 128.8 mg | [H-].[Na+]
reactant | benzyloxymethyl chloride | 36.5 μl | C(C1=CC=CC=C1)OCCl | C8H9ClO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-benzyloxymethyl-1,11-dibenzyloxy-12,13-dihydro-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7(6H)-dione | yield: 61.7% | C(C1=CC=CC=C1)OCN1C(C=2C3=C(C=4NC5=C(C=CC=C5C4C2C1=O)OCC1=CC=CC=C1)NC=1C(=CC=CC13)OCC1=CC=CC=C1)=O | C42H31N3O5
